US05270317
A) 5-Methyl-5-phenylhydantoin
30 g of acetophenone diluted in 250 ml of 95° alcohol are added over 30 minutes to a mixture of 18.35 g of sodium cyanide and 125 g of ammonium bicarbonate in 250 ml of water and the reaction medium is heated at 60°-65° C. for 22 hours, with stirring. It is concentrated to half its volume under vacuum and the solid which has precipitated is filtered off, washed with water and ether and then dried under vacuum to give 38 g of a white solid, which is identified by IR.

reactant | acetophenone | 30 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium cyanide | 18.35 g | [C-]#N.[Na+]
reactant | ammonium bicarbonate | 125 g | C([O-])(O)=O.[NH4+]
reactant | water | 250 ml | O | H2O
product | 5-Methyl-5-phenylhydantoin | 38 g | CC1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C10H10N2O2
